US08865911B2
6-Bromo-5′,6′-dihydro-4′H-spiro[chromene-2,3′-pyran]-4(3H)-one
A solution of 1-(5-bromo-2-hydroxyphenyl)ethanone (8.2 g, 38.13 mmol), dihydro-pyran-3-one (4.96 g, 49.57 mmol) and pyrrolidine (4.12 mL, 49.57 mmol) in toluene (80 mL) was stirred at 50° C. for 1 h. The temperature was increased to reflux, and the reaction was refluxed for 22 h. Additional dihydro-pyran-3-one (0.5 g 5 mmol) was added and the mixture was refluxed for an additional 24 h. The mixture was allowed to reach r.t., and then water (50 mL) followed by EtOAc (100 mL) was added. The organic layer was concentrated and the residue was purified by flash chromatography using a gradient of heptane to 40% EtOAc in heptane to give the title compound (9 g, 79% yield): 1H NMR (500 MHz, CDCl3) δ ppm 1.57 (m, 1 H), 1.72 (ddd, 1 H), 1.96 (m, 1 H), 2.12 (m, 1 H), 2.71 (m, 2 H), 3.51 (d, 1 H), 3.58 (m, 1 H), 3.86 (m, 2 H), 6.96 (d, 1 H), 7.57 (dd, 5 H), 7.97 (d, 4 H); MS (ES+) m/z 297 [M+H]+.

reactant | 1-(5-bromo-2-hydroxyphenyl)ethanone | 38.13 mmol, 8.2 g | BrC=1C=CC(=C(C1)C(C)=O)O | C8H7BrO2
reactant | dihydro-pyran-3-one | 49.57 mmol, 4.96 g | O1CC(CCC1)=O | C5H8O2
reactant | pyrrolidine | 49.57 mmol, 4.12 mL | N1CCCC1 | C4H9N
reactant | dihydro-pyran-3-one | 5 mmol, 0.5 g | O1CC(CCC1)=O | C5H8O2
reactant | water | 50 mL | O | H2O
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 6-Bromo-5′,6′-dihydro-4′H-spiro[chromene-2,3′-pyran]-4(3H)-one | 9 g, 79% yield | BrC=1C=C2C(CC3(COCCC3)OC2=CC1)=O | C13H13BrO3
